US08383644B2
(S)-2-({(3S,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid methyl ester (30 mg) was reacted with Isocyanato-cyclobutane according to General Procedure AD and I to give (S)-2-({(3S,8S)-7-cyclobutylcarbamoyl-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid methyl ester. This ester was hydrolyzed according to General Procedure B to give the title compound (12 mg). LCMS (m/z): 852.

reactant | (S)-2-({(3S,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid methyl ester | 30 mg | COC([C@H](CC1=CC=C(C=C1)OC1=C(C(=NC=C1)C)C)NC(=O)[C@H]1NCC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)=O | C42H39Cl2N3O7
reactant | Isocyanato-cyclobutane | N(=C=O)C1CCC1 | C5H7NO
product | (S)-2-({(3S,8S)-7-cyclobutylcarbamoyl-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid methyl ester | COC([C@H](CC1=CC=C(C=C1)OC1=C(C(=NC=C1)C)C)NC(=O)[C@H]1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)C(NC3CCC3)=O)=O | C47H46Cl2N4O8
